US06235731B1
A solution of 5.0 g (21.16 mmol.) of 1-benzoylpiperazine.formate, 5.67 g (21.15 mmol.) of 3-bromopropylphthalimide and 9.0 ml (64.57 mmol.) of triethylamine in ethanol (50 ml) was heated under reflux for 18 hours under nitrogen atmosphere. The reaction mixture was cooled to room temperature, to which was added water. the mixture was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution, which was dried over magnesium sulfate, followed by distilling off the solvent under reduced pressure. The resulting crude product was purified by means of a column chromatography (methanol/ethyl acetate 5%), followed by distilling off the solvent under reduced pressure, to give N-[3-(4-benzoylpiperazin-1-yl)propan-1-yl]phthalimide (6.22 g) as yellow oil. To an ethanol (50 ml) solution of this compound (6.22 g) was added, at room temperature, 1.24 g (24.8 mmol.) of hydrazine monohydrate. The mixture was heated for 2 hours under reflux. The reaction mixture was cooled to room temperature, then the resulting white solid substance was filtered off. The filtrate was concentrated under reduced pressure. To the concentrate was added water, which was subjected to extraction with chloroform. The organic layer was washed with a saturated aqueous saline solution, followed by drying over magnesium sulfate. the solvent was distilled off under reduced pressure to leave crude 4-(3-aminopropan-1-yl)-1-benzoylpiperazine. To an ethanol solution of this crude 4-(3-aminopropan-1-yl)-1-benzoylpiperazine was added, at room temperature, 3 ml (36 mmol.) of 12N hydrochloric acid. The mixture was stirred for one hour at room temperature. The reaction mixture was concentrated under reduced pressure. To the concentrate was added diethyl ether. The resulting crystals were collected by filtration and washed with ethanol and diethyl ether to give the object compound as a white crystalline product. The yield was 1.80 g (27%).

reactant | 1-benzoylpiperazine | 21.16 mmol, 5.0 g | C(C1=CC=CC=C1)(=O)N1CCNCC1 | C11H14N2O
reactant | formate | C(=O)[O-]
reactant | 3-bromopropylphthalimide | 21.15 mmol, 5.67 g | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
reactant | triethylamine | 64.57 mmol, 9.0 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-[3-(4-benzoylpiperazin-1-yl)propan-1-yl]phthalimide | 6.22 g | C(C1=CC=CC=C1)(=O)N1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H23N3O3
